US04753950
5-Amino-6,7,8,9-tetrahydrobenzo[b][1,7]naphthyridin-6-ol
To a cooled solution of 5-amino-6,7,8,9-tetrahydrobenzo[b][1,7]naphthyridin-6-one (3.05 g) was added 14.5 ml of 1M lithium aluminum hydride in tetrahydrofuran. This was stirred for 1 hour.

reactant | 5-amino-6,7,8,9-tetrahydrobenzo[b][1,7]naphthyridin-6-one | 3.05 g | NC1=C2C(=NC=3C=NC=CC13)CCCC2=O | C12H11N3O
reactant | lithium aluminum hydride | 1M, 14.5 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-Amino-6,7,8,9-tetrahydrobenzo[b][1,7]naphthyridin-6-ol | NC1=C2C(=NC=3C=NC=CC13)CCCC2O | C12H13N3O
